US07504162B2
Under a nitrogen atmosphere, 3,6-dibromocarbazole (9.75 g, 30 mmol) was slowly added to a suspension of sodium hydride (45 mmol) in dried THF (100 mL), and then stirred for 30 minutes at room temperature. Benzylbromide (6.72 g, 40 mmol) was dropped into the reaction mixture to be stirred for 20 hours. After addition of water (about 100 mL), a precipitated solid was filtrated, and the filtrate (residuum of the filtration) was washed with an aqueous sodium hydrogencarbonate solution, and then was dissolved in ethanol. The solution was dried by magnesium sulfate, filtrated and concentrated. The residuum was recrystallized with ethanol to give N-benzyl-3,6-dibromocarbazole as a white solid. The yield was 61%.

reactant | 3,6-dibromocarbazole | 30 mmol, 9.75 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | sodium hydride | 45 mmol | [H-].[Na+]
reactant | Benzylbromide | 40 mmol, 6.72 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | about 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-benzyl-3,6-dibromocarbazole | yield was 61% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br | C19H13Br2N
